US07253141B2
However, if there was added to the base the same amount of (6RS,7RS)-3,5,5,6,7,8,8-heptamethyl-3,4,5,6,7,8-hexahydronaphthalen-1(2H)-one or (6RS,7RS)-5,5,6,7,8,8-hexamethyl-3,4,5,6,7,8-hexahydronaphthalen-2(1H)-one the whole olfactif effect was closer to the one provided by Tonalide®. The effect obtained by the addition of (6RS,7RS) -5,5,6,7,8,8-hexamethyl-3,4,5,6,7,8-hexahydronaphthalen-2(1H)-one was also slightly more ambrette than the one imparted by (6RS,7RS)-3,5,5,6,7,8,8-heptamethyl-3,4,5,6,7,8-hexahydronaphthalen-1(2H)-one.

reactant | (6RS,7RS)-3,5,5,6,7,8,8-heptamethyl-3,4,5,6,7,8-hexahydronaphthalen-1(2H)-one | CC1CC(C=2C(C(C(C(C2C1)(C)C)C)C)(C)C)=O | C17H28O
reactant | (6RS,7RS)-5,5,6,7,8,8-hexamethyl-3,4,5,6,7,8-hexahydronaphthalen-2(1H)-one | CC1(C=2CCC(CC2C(C(C1C)C)(C)C)=O)C | C16H26O
product | Tonalide | CC1CC(C2=C(C1(C)C)C=C(C(=C2)C(=O)C)C)(C)C | C18H26O
